US04321372
4,5-Diethylthiazol-2-ylcarbamoylcarboxylic Acid
Ethyl 4,5-diethylthiazol-2-ylcarbamoylcarboxylate (897 mg., 3.5 mmoles), 1 N potassium carbonate (3.5 ml., 3.5 equivalents) and 27 ml. of water were combined and heated on a steam bath for 10 minutes. Clear solution was noted after 5 minutes. The reaction mixture was cooled and made acidic with acetic acid. Crude product (625 mg.) was recovered by filtration. Recrystallization from approximately 33 ml. of absolute ethanol gave purified 4,5-diethylthiazol-2-ylcarbamoylcarboxylic acid [470 mg.; m.p. 206° C. (dec.)].

reactant | Ethyl 4,5-diethylthiazol-2-ylcarbamoylcarboxylate | 3.5 mmoles, 897 mg | C(C)C=1N=C(SC1CC)NC(=O)C(=O)OCC | C11H16N2O3S
reactant | potassium carbonate | 1 N, 3.5 ml, 3.5 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,5-Diethylthiazol-2-ylcarbamoylcarboxylic Acid | C(C)C=1N=C(SC1CC)NC(=O)C(=O)O | C9H12N2O3S
